US05627215
(E)-1,14-Di-ethyl-1,5,10,14-tetraazatetradec-7-ene tetrahydrochloride
1.97 g (3 mmol) of (E)-1,14-di-ethyl-1,5,10,14-tetra-BOC-1,5,10,14-tetraazatetradec-7-ene and 30 ml of 3N methanolic hydrochloric acid are reacted analogously to Example 1. The addition of 50 ml of diethyl ether to the reaction mixture and subsequent filtration yield the title compound, m.p. >260° C. 1H-NMR (D2O): δ1.28(t,6H); 2.04-2.15(m,4H); 3.08-3.19(m,12H); 3.76(d,4H); 6.04-6.07(m,2H).

reactant | (E)-1,14-di-ethyl-1,5,10,14-tetra-BOC-1,5,10,14-tetraazatetradec-7-ene | 3 mmol, 1.97 g | C(C)N(CCCN(C\C=C\CN(CCCN(C(=O)OC(C)(C)C)CC)C(=O)OC(C)(C)C)C(=O)OC(C)(C)C)C(=O)OC(C)(C)C | C34H64N4O8
reactant | hydrochloric acid | 3N, 30 ml | Cl | ClH
solvent | diethyl ether | 50 ml | C(C)OCC | C4H10O
product | (E)-1,14-Di-ethyl-1,5,10,14-tetraazatetradec-7-ene tetrahydrochloride | Cl.Cl.Cl.Cl.C(C)NCCCNC\C=C\CNCCCNCC | InChI=1S/C14H32N4.4ClH/c1-3-15-11-7-13-17-9-5-6-10-18-14-8-12-16-4-2;;;;/h5-6,15-18H,3-4,7-14H2,1-2H3;4*1H/b6-5+;;;;
